US09062048B2
Step G: tert-butyl 2-(3-(4-hydroxy-4-(thiazol-5-yl)piperidin-1-yl)cyclobutylamino)-2-oxoethylcarbamate
Into a 50 mL round-bottom flask, was placed a solution of 2-(tert-butoxycarbonyl)acetic acid (899 mg, 5.14 mmol, 1.00 equiv) in dichloromethane (20 mL), EDC.HCl (1 g, 5.21 mmol, 1.10 equiv), HOBt (756 mg, 5.60 mmol, 1.10 equiv), triethylamine (1.5 g, 14.85 mmol, 3.00 equiv) and 1-(3-aminocyclobutyl)-4-(thiazol-5-yl)piperidin-4-ol (as prepared in the previous step) (1.3 g, 5.14 mmol, 1.00 equiv). The reaction mixture was stirred overnight at room temperature. The resulting mixture was concentrated under vacuum. The residue purified by chromatography over a silica gel column with EtOAc/petroleum ether (1:1-1:10). The title compound was obtained as a white solid.

reactant | 2-(tert-butoxycarbonyl)acetic acid | 5.14 mmol, 899 mg, 1.00 equiv | C(C)(C)(C)OC(=O)CC(=O)O | C7H12O4
reactant | EDC.HCl | 5.21 mmol, 1 g, 1.10 equiv | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 5.60 mmol, 756 mg, 1.10 equiv | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 14.85 mmol, 1.5 g, 3.00 equiv | C(C)N(CC)CC | C6H15N
reactant | 1-(3-aminocyclobutyl)-4-(thiazol-5-yl)piperidin-4-ol | NC1CC(C1)N1CCC(CC1)(O)C1=CN=CS1 | C12H19N3OS
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | tert-butyl 2-(3-(4-hydroxy-4-(thiazol-5-yl)piperidin-1-yl)cyclobutylamino)-2-oxoethylcarbamate | OC1(CCN(CC1)C1CC(C1)NC(CNC(OC(C)(C)C)=O)=O)C1=CN=CS1 | C19H30N4O4S
